US04371736
5-Bromo-2-[2-(5-chloropyrimidin-2-ylthio)phenylthio]-pyridine
To a mixture of 3.0 grams (0.02 mole) dimercaptobenzene and 7.0 grams of potassium carbonate stirring in 50 ml of dimethylformamide, 3.5 grams of 2,5-dichloropyrimidine is added at 0° and the mixture stirred for 4 hours, before adding 5.0 grams of 2,5-dibromopyridine and heating at 80° for 4 additional hours. The mixture is added to excess H2O and extracted with ethyl ether. After washing the ether layer with H2O, saturated NaHCO3, brine, and drying (MgSO4), evaporating the solvent gives the crude product.

reactant | dimercaptobenzene | 0.02 mole, 3.0 grams | SC1=C(C=CC=C1)S | C6H6S2
reactant | potassium carbonate | 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichloropyrimidine | 3.5 grams | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
reactant | 2,5-dibromopyridine | 5.0 grams | BrC1=NC=C(C=C1)Br | C5H3Br2N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 5-Bromo-2-[2-(5-chloropyrimidin-2-ylthio)phenylthio]-pyridine | BrC=1C=CC(=NC1)SC1=C(C=CC=C1)SC1=NC=C(C=N1)Cl | C15H9BrClN3S2
